US04487929
A mixture of 6.43 g (17 mmol) of methyl 2,3,5,8-tetrahydro-2-(2-iodoethyl)-2-methyl-1,3-dioxo-1H-pyrazolo-[1,2-a]pyridazine-5-carboxylate and 1.94 g (17 mmol) of potassium thioacetate in 150 ml of acetone was stirred at room temperature for 5 hours. The solvent was removed by evaporation and the residue was partitioned between dichloromethane and water. The organic phase was separated, dried over magnesium sulfate and evaporated to give methyl 2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate as a mixture of diastereomers. Chromatography on silica gel using diethyl ether for the elution gave 3.81 g (69%) of diastereomer A in the form of a colorless oil and 1.26 g (23%) of diastereomer B in the form of a colorless oil.

reactant | methyl 2,3,5,8-tetrahydro-2-(2-iodoethyl)-2-methyl-1,3-dioxo-1H-pyrazolo-[1,2-a]pyridazine-5-carboxylate | 17 mmol, 6.43 g | ICCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C12H15IN2O4
reactant | potassium thioacetate | 17 mmol, 1.94 g | C(C)(=S)[O-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | methyl 2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C14H18N2O5S
